US04766133
21.8 g of 5-(trifluoromethyl)-2-benzimidazolethiol are suspended in 400 ml of alcohol and treated with 22.2 g of 2-chloromethyl-4-methoxy-3,5-dimethylpyridine hydrochloride while cooling with ice. Thereafter, a solution of 8.0 g of sodium hydroxide in 300 ml of water is added dropwise thereto, the mixture is left to boil at reflux overnight and subsequently evaporated to dryness in vacuo. The residue is dissolved in 1.5 l of methylene chloride. The solution is washed firstly with 200 ml of 1.5N sodium hydroxide solution and then 3 x with 700 ml of water, dried over sodium sulphate and evaporated in vacuo. The crude product is purified on 360 g of silica gel with ethyl acetate/methylene chloride (1:1) as the elution agent. Crystallization from methylene chloride/petroleum ether gives 2-[[(4-methoxy-3,5-dimethyl-2-pyridyl)methyl]thio]-5-(trifluoromethyl)benzimidazole of melting point 164°-166°.

reactant | 5-(trifluoromethyl)-2-benzimidazolethiol | 21.8 g | FC(C1=CC2=C(N=C(N2)S)C=C1)(F)F | C8H5F3N2S
reactant | 2-chloromethyl-4-methoxy-3,5-dimethylpyridine hydrochloride | 22.2 g | Cl.ClCC1=NC=C(C(=C1C)OC)C
reactant | sodium hydroxide | 8.0 g | [OH-].[Na+]
solvent | water | 300 ml | O | H2O
product | 2-[[(4-methoxy-3,5-dimethyl-2-pyridyl)methyl]thio]-5-(trifluoromethyl)benzimidazole | COC1=C(C(=NC=C1C)CSC=1NC2=C(N1)C=CC(=C2)C(F)(F)F)C | C17H16F3N3OS
